US05380852
3-(Allyloxy)propyl 5-chloroquinolin-8-oxyacetate (Example 19 in Table 1)
3.78 g (0.021 mol) of 5-chloro-8-hydroxyquinoline and 2.91 g (0.021 mol) of potassium carbonate are heated at 60° C. in 100 ml of dimethylsulfoxide (DMSO) for 30 minutes. The mixture is allowed to cool again to room temperature, 5.0 g (0.021 mol) of 3-(allyloxy)propyl bromoacetate are then added dropwise and the solution is subsequently heated at 90° C. for 4 hours. The DMSO is then distilled off in vacuo, the residue is taken up in ethyl acetate and the solution is washed with water and 5 percent strength sodium hydroxide solution. The organic phase is dried over magnesium sulfate, the desiccant is filtered off and the solvent is stripped off under reduced pressure. After recrystallization of the residue from n-heptane, 5.4 g (76.3% of theory) of 3-(allyloxy)propyl

reactant | 5-chloro-8-hydroxyquinoline | 0.021 mol, 3.78 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | potassium carbonate | 0.021 mol, 2.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(allyloxy)propyl bromoacetate | 0.021 mol, 5.0 g | BrCC(=O)OCCCOCC=C | C8H13BrO3
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 3-(Allyloxy)propyl 5-chloroquinolin-8-oxyacetate | ClC1=C2C=CC=NC2=C(C=C1)OCC(=O)OCCCOCC=C | C17H18ClNO4
